US07153875B2
A solution of toluene (10 mL), piperidine (10 μL), acetic acid (10 μL), 4-[3-(1-adamantyl)-4,5-methylenedioxyphenyl]-benzaldehyde (0.400 g, 1.11 mmol) and 2,4-thiazolidinedione (0.130 g, 1.11 mmol) was heated at reflux overnight under an argon atmosphere. The reaction mixture was cooled to room temperature, and the resulting crystalline compound was filtered, washed with toluene and ethanol. The yellow solid was dried under high vacuum to afford 0.390 g (76%) of 4-[3-(1-adamantyl)-4,5-methylenedioxyphenyl]-benzylidene-2,4-thiazolidinedione, mp 308° (dec). 1H NMR (500 MHz; DMSO-d6): 1.74 (s, 6H), 2.04 (s, 9H), 6.05 (s, 2H), 7.06 (d, J=1.5 Hz, 1H), 7.20 (d, J=1.5 Hz, 1H), 7.63 (d, J=8.0 Hz, 2H), 7.78 (d, J=8.0 Hz, 2H), 7.81 (s, 1H), 12.5–12.7 (brs, 1H).

reactant | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
reactant | piperidine | 10 μL | N1CCCCC1 | C5H11N
reactant | 4-[3-(1-adamantyl)-4,5-methylenedioxyphenyl]-benzaldehyde | 1.11 mmol, 0.400 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=C3C2OCO3)C3=CC=C(C=O)C=C3 | C24H24O3
reactant | 2,4-thiazolidinedione | 1.11 mmol, 0.130 g | S1C(NC(C1)=O)=O | C3H3NO2S
solvent | acetic acid | 10 μL | C(C)(=O)O | C2H4O2
product | 4-[3-(1-adamantyl)-4,5-methylenedioxyphenyl]-benzylidene-2,4-thiazolidinedione | 0.390 g, 76% | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=C3C2OCO3)C3=CC=C(C=C2C(NC(S2)=O)=O)C=C3 | C27H25NO4S
